US03957871
N-(4-phenylethynylbenzyl)-piperidine
4-(Phenylethynyl)-benzyl chloride, 0.57 g. (2.5 mmole), is added to 5 ml. of piperidine and the mixture, from which a precipitate separates, is stirred for about 3 hours at room temperature. After evaporation of the bulk of the excess piperidine under reduced pressure, the residue is triturated with benzene and the insoluble piperidine hydrochloride removed by filtration. The benzene filtrate is washed with water and dried (MgSO4). Evaporation of the benzene under reduced pressure leaves 0.74 g. of the product as the residual oil. This oil is dissolved in isopropyl alcohol and treated with a slight excess of 7.2 N. hydrogen chloride in absolute ethanol. The white crystalline precipitate is collected after chilling the mixture and is recrystallized from isopropyl alcohol to give 0.662 g. of N-(4-phenylethynylbenzyl)-piperidine hydrochloride, m.p. 254°-256°C.

reactant | 4-(Phenylethynyl)-benzyl chloride | C1(=CC=CC=C1)C#CC1=CC=C(CCl)C=C1 | C15H11Cl
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | hydrogen chloride | Cl | ClH
reactant | N-(4-phenylethynylbenzyl)-piperidine hydrochloride | Cl.C1(=CC=CC=C1)C#CC1=CC=C(CN2CCCCC2)C=C1
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
product | N-(4-phenylethynylbenzyl)-piperidine | C1(=CC=CC=C1)C#CC1=CC=C(CN2CCCCC2)C=C1 | C20H21N
